US07153868B2
A solution of BuLi (56.5 mmol) in hexanes (2.5 M, 22.6 mL) was added dropwise over 8 min to a stirred solution of iPr2NH (8.0 mL, 56.5 mmol) in THF (150 mL) at 0° C. under N2. After 20 min, the reaction was cooled to −78° C. and a solution of acetone (4.09 mL, 55.7 mmol) in THF (10 mL) was added dropwise over 5 min and then the mixture was stirred for a further hour. Meanwhile, CDI (4.92 g, 30.3 mmol) was added to a stirred solution of 1-boc-piperidine-4-carboxylic acid (6.33 g, 27.6 mmol) in THF (100 mL) at RT under N2. This was then stirred at RT for 45 min and then added by cannula into the above solution at −78° C. under N2. The resulting solution was stirred at −78° C. for 45 min, before warming to RT and stirring for a further hour. The reaction was then diluted with EtOAc (200 mL) and washed with 1M citric acid solution (2×100 mL), NaHCO3 solution (2×100 mL) and brine (50 mL), dried (MgSO4) and concentrated under reduced pressure to yield the crude 1,3-dicarbonyl compound (5.68 g). EtOH (20 mL), ethylhydrazine oxalate (1.79 g, 11.9 mmol) and Et3N (1.65 mL, 11.9 mol) were then added to this crude residue (1.6 g, 5.94 mmol) and the mixture stirred at RT for 36 h. H2O (30 mL) was added and the organics extracted with CH2Cl2 (3×30 mL), dried (MgSO4) and the solution concentrated under reduced pressure while dry loading onto MgSO4. The residue purified by column chromatography on silica eluting with 100% Et2O to yield first 4-(1-ethyl-5-methyl-1H-pyrazol-3-yl)piperidine-1-carboxylic acid tert-butyl ester (224 mg) and then 4-(2-ethyl-5-methyl-2H-pyrazol-3-yl)piperidine-1-carboxylic acid tert-butyl ester (313 mg).

reactant | BuLi | 56.5 mmol | [Li]CCCC
reactant | iPr2NH | 56.5 mmol, 8.0 mL | N(C(C)C)C(C)C | C6H15N
reactant | acetone | 55.7 mmol, 4.09 mL | CC(=O)C | C3H6O
reactant | CDI | 30.3 mmol, 4.92 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-boc-piperidine-4-carboxylic acid | 27.6 mmol, 6.33 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | ethylhydrazine oxalate | 11.9 mmol, 1.79 g | C(C(=O)O)(=O)O.C(C)NN
reactant | Et3N | 11.9 mol, 1.65 mL | CCN(CC)CC | C6H15N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 30 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(1-ethyl-5-methyl-1H-pyrazol-3-yl)piperidine-1-carboxylic acid tert-butyl ester | 224 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NN(C(=C1)C)CC | C16H27N3O2
